US08703797B2
A solution of N-(3-isobutyrylpyridin-2-yl)pivalamide (3.10 g, 12.5 mmol), LDA (1.5 M, 17.50 mL, 2.1 eq) and t-butyl acetate (3.5 mL, 2.1 eq) were reacted as outlined in Scheme 1 to give tert-butyl 3-hydroxy-4-methyl-3-(2-pivalamidopyridin-3-yl)pentanoate which was used in the next step without further purification.

reactant | N-(3-isobutyrylpyridin-2-yl)pivalamide | 12.5 mmol, 3.10 g | C(C(C)C)(=O)C=1C(=NC=CC1)NC(C(C)(C)C)=O | C14H20N2O2
reactant | LDA | 1.5 M, 17.50 mL, 2.1 eq | [Li+].CC(C)[N-]C(C)C
reactant | t-butyl acetate | 3.5 mL, 2.1 eq | C(C)(=O)OC(C)(C)C | C6H12O2
product | tert-butyl 3-hydroxy-4-methyl-3-(2-pivalamidopyridin-3-yl)pentanoate | OC(CC(=O)OC(C)(C)C)(C(C)C)C=1C(=NC=CC1)NC(C(C)(C)C)=O | C20H32N2O4
